US07585885B2
(S)-2-sec-Butylamino-6-hydroxy-isonicotinic acid ethyl ester
Treat sodium iodide (5.58 g, 36.7 mmol) and (S)-2-sec-butylamino-6-methoxy-isonicotinic acid ethyl ester (1.85 g, 7.3 mmol) in acetonitrile (30 mL) with chlorotrimethylsilane (4.66 mL, 36.7 mmol) and stir at reflux for 38 h. Quench with methanol (10 mL), stir for 24 h, and concentrate. Dissolve residue in ethyl acetate, wash with water, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 70:30 to 100:0 ethyl acetate:hexanes) to give the title compound (0.98 g, 56%).

reactant | sodium iodide | 36.7 mmol, 5.58 g | [I-].[Na+]
reactant | (S)-2-sec-butylamino-6-methoxy-isonicotinic acid ethyl ester | 7.3 mmol, 1.85 g | C(C)OC(C1=CC(=NC(=C1)OC)N[C@@H](C)CC)=O | C13H20N2O3
reactant | chlorotrimethylsilane | 36.7 mmol, 4.66 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | (S)-2-sec-Butylamino-6-hydroxy-isonicotinic acid ethyl ester | 0.98 g, 56% | C(C)OC(C1=CC(=NC(=C1)O)N[C@@H](C)CC)=O | C12H18N2O3
